US06620811B2
2-[Ethyl-(2-pyridin-2-yl-ethyl)-amino]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and 2-[2-(ethylamino)ethyl]pyridine. ES-MS m/e (%): 519 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-[2-(ethylamino)ethyl]pyridine | C(C)NCCC1=NC=CC=C1 | C9H14N2
product | 2-[Ethyl-(2-pyridin-2-yl-ethyl)-amino]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | C(C)N(C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1)CCC1=NC=CC=C1 | C27H30N6O3S
